US05401774
A solution of sodium periodate (0.214 g.; 0.001 mole) in 3 ml. of water is added dropwise to 5-methoxy-2-methyl-1-(ρ-methylthiobenzylidene)-3-indenyl acetic acid (0.352 g.) (0.001 mole) in 25 ml. methanol and enough acetone to cause solution. This solution is stirred overnight at room temperature and filtered. The filtrate is evaporated at 30° to a sufficiently small volume that causes the product to precipitate. The suspension is diluted with several volumes of water, cooled and collected. The product is dried in vacuo over potassium hydroxide pellets and then in a vacuum oven at 70° to give 5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid (M.P. 200.5-203.5°).

reactant | sodium periodate | 0.001 mole, 0.214 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | 5-methoxy-2-methyl-1-(ρ-methylthiobenzylidene)-3-indenyl acetic acid | 0.001 mole, 0.352 g | COC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)SC)C)CC(=O)O | C21H20O3S
reactant | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
product | 5-methoxy-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid | COC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C21H20O4S
